US09024018B2
8-(1H-Benzo[d]imidazol-2-yl)-3-(methoxymethyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-064)
Triflic anhydride (820 μL; 4.85 mmol) was added to a solution of triphenylphosphine oxide (1.35 g; 4.85 mmol) in DCM (15 mL) at 0° C. and the mixture stirred for 20 minutes, then added to a suspension of N-(2-aminophenyl)-3-(methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide (0.500 g; 1.61 mmol—combined batches) in DCM (15 mL). The solution was stirred for 96 hours, and the precipitate filtered. This was the triflate salt of the desired product (550 mg). This salt was dissolved in a mixture of MeCN (19 mL) and MeOH (1 mL) and triethylamine (750 μL) added. The resulting precipitate was filtered, and washed with ethyl acetate to give the title compound as a yellow powder (269 mg; 56%). Concentration of the filtrate, and washing the residue with ethyl acetate yielded a further 48 mg of pure material. δH (DMSO d6): 13.09 (1H, s), 7.75 (1H, d, J=7.5), 7.58 (1H, d, J=7.1), 7.30-7.22 (2H, m), 5.64 (2H, s), 3.45 (3H, s).

reactant | Triflic anhydride | 4.85 mmol, 820 μL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triphenylphosphine oxide | 4.85 mmol, 1.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | N-(2-aminophenyl)-3-(methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide | 1.61 mmol, 0.500 g | NC1=C(C=CC=C1)NC(=O)C=1N=CN2C1N=NN(C2=O)COC | C13H13N7O3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 8-(1H-Benzo[d]imidazol-2-yl)-3-(methoxymethyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | 269 mg, 56% | N1C(=NC2=C1C=CC=C2)C=2N=CN1C2N=NN(C1=O)COC | C13H11N7O2
